US06455528B1
(2) N-(4-((4-(Pyridin-4-yl)piperazin-1-yl)methyl)phenylmethyl)acetamide
A solution of N-(4-chloromethylphenylmethyl) acetamide (0.85 g), 1-(pyridin-4-yl)piperazine (0.64 g) and potassium carbonate (0.81 g) in dimethylformamide (10 ml) was stirred at 60-70° C. for 5 hr. The reaction mixture was poured into water and extracted with chloroform. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated and the obtained residue was purified by silica gel column chromatography (developing solvent; chloroform:methanol=9:1)to give a yellow solid(0.6 g). The obtained yellow solid was crystallized from ethyl acetate-methanol to give the title compound (0.37 g) as white crystals, m.p.=164-166° C.

reactant | N-(4-chloromethylphenylmethyl) acetamide | 0.85 g | ClCC1=CC=C(C=C1)CNC(C)=O | C10H12ClNO
reactant | 1-(pyridin-4-yl)piperazine | 0.64 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
reactant | potassium carbonate | 0.81 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(4-((4-(Pyridin-4-yl)piperazin-1-yl)methyl)phenylmethyl)acetamide | 0.6 g | N1=CC=C(C=C1)N1CCN(CC1)CC1=CC=C(C=C1)CNC(C)=O | C19H24N4O
